US05808062
4-Hydroxy-6-[4-[(2-methoxyphenyl)methoxy]-3-methylphenyl]-3-[(2-phenylethyl)thio]-2H-pyran-2-one:
The title compound was prepared by Method A using 4'-[(2-methoxyphenyl)methoxy]-3'-methylacetophenone (1.36 g, 5.06 mmol), lithium bis(trimethylsilyl)amide (0.930 g, 5.56 mmol), chlorotrimethylsilane (0.705 mL, 5.56 mmol), THF (56 mL), and diethyl ester of [(2-phenylethyl)thio]propanedioic acid (1.00 g, 3.37 mmol). m.p. dec. 170° C.; 1H NMR (400 MHz, DMSO-d6) δ 2.25 (s, 3 H), 2.77 (t, 2 H), 2.97 (t, 2 H), 3.84 (s, 3 H), 5.17 (s, 2 H), 6.67 (s, 1 H), 6.98 (t, 1 H), 7.70 (d, 1 H), 7.27 (m, 6 H), 7.41 (t, 1 H), 7.43 (d, 1 H), 7.65 (m, 2 H), 11.81 (bs, 1 H).

reactant | 4'-[(2-methoxyphenyl)methoxy]-3'-methylacetophenone | 5.06 mmol, 1.36 g | COC1=C(C=CC=C1)COC1=C(C=C(C=C1)C(C)=O)C | C17H18O3
reactant | lithium bis(trimethylsilyl)amide | 5.56 mmol, 0.930 g | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | chlorotrimethylsilane | 5.56 mmol, 0.705 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | [(2-phenylethyl)thio]propanedioic acid | 3.37 mmol, 1.00 g | C1(=CC=CC=C1)CCSC(C(=O)O)C(=O)O | C11H12O4S
solvent | THF | 56 mL | C1CCOC1 | C4H8O
product | 4-Hydroxy-6-[4-[(2-methoxyphenyl)methoxy]-3-methylphenyl]-3-[(2-phenylethyl)thio]-2H-pyran-2-one | OC1=C(C(OC(=C1)C1=CC(=C(C=C1)OCC1=C(C=CC=C1)OC)C)=O)SCCC1=CC=CC=C1 | C28H26O5S
